US04800212
Trans-1-amino-3,3-dimethyl-7-cyano-1,2,3,4-tetrahydro-2-naphthol
A solution of 7-cyano-1,2-epoxy-3,3-dimethyl-1,2,3,4-tetrahydronaphthalene (3.5 g) in ethanol (50 ml) and ammonium hydroxide solution (100 ml) was stirred at room temperature for 10 days. Ethyl acetate (50 ml) was added and the mixture extracted with dilute hydrochloric acid. The acidic extracts were made basic with sodium hydroxide solution, and extracted with ethyl acetate. The organic extracts were washed with water, then brine, and dried over sodium sulphate.

reactant | 7-cyano-1,2-epoxy-3,3-dimethyl-1,2,3,4-tetrahydronaphthalene | 3.5 g | C(#N)C1=CC=C2CC(C3C(C2=C1)O3)(C)C | C13H13NO
reactant | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
reactant | ammonium hydroxide | 100 ml | [OH-].[NH4+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Trans-1-amino-3,3-dimethyl-7-cyano-1,2,3,4-tetrahydro-2-naphthol | N[C@H]1[C@@H](C(CC2=CC=C(C=C12)C#N)(C)C)O | C13H16N2O
